US05270313
60 mg of sodium were added to 2 ml of ethylene glycol at 70° C. Thereafter, 223 mg of N-[6-chloro-5-(2,6-dimethoxybenzyl)-4-pyrimidinyl]-p-vinyl-benzenesulfonamide were added and the reaction mixture was heated at 150° C. for 4.5 hours. The ethylene glycol was distilled under reduced pressure, the residue was taken up in EtOAc/H2O and extracted once with ethyl acetate. Thereafter, the aqueous phase was acidified with 1N HCl and extracted four times with ethyl acetate. The organic phase was dried, filtered and concentrated under reduced pressure. The residue was chromatographed over 50 g of SiO2 with methylene chloride/ethyl acetate 1:1. There were obtained 50 mg of N-[5-(2,6-dimethoxybenzyl)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-p-vinylbenzenesulfonamide, melting point 138°-139° C.

reactant | sodium | 60 mg | [Na] | Na
reactant | N-[6-chloro-5-(2,6-dimethoxybenzyl)-4-pyrimidinyl]-p-vinyl-benzenesulfonamide | 223 mg | ClC1=C(C(=NC=N1)NS(=O)(=O)C1=CC=C(C=C1)C=C)CC1=C(C=CC=C1OC)OC | C21H20ClN3O4S
reactant | ethylene glycol | 2 ml | C(CO)O | C2H6O2
product | N-[5-(2,6-dimethoxybenzyl)-6-(2-hydroxyethoxy)-4-pyrimidinyl]-p-vinylbenzenesulfonamide | 50 mg | COC1=C(CC=2C(=NC=NC2OCCO)NS(=O)(=O)C2=CC=C(C=C2)C=C)C(=CC=C1)OC | C23H25N3O6S
